US07442839B2
x) (1R)-2-[(6-{4-[3-(Cyclopentylsulfinyl)phenyl]butoxy}hexyl)amino]-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol
A stirred mixture of (5R)-3-(6-{4-[3-(cyclopentylsulfinyl)phenyl]butoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (0.14 g) and potassium trimethyl silanolate (0.45 g) in tetrahydrofuran (10 ml) was heated to reflux for 2 h. The mixture was poured into phoshate buffer solution (pH 5, 50 ml) and extracted into ethyl acetate. The extracts were washed with water, dried (Na2SO4) and evaporated. The residual oil was purified on a biotage cartridge (8 g) using dichloromethane-ethanol-0.88 ammonia (100:8:1) as eluent. The appropriate fractions were evaporated to give the title compound (0.11 g) LCMS RT=2.89 min.

reactant | (5R)-3-(6-{4-[3-(cyclopentylsulfinyl)phenyl]butoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 0.14 g | C1(CCCC1)S(=O)C=1C=C(C=CC1)CCCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C34H47NO6S
reactant | potassium trimethyl silanolate | 0.45 g | C[Si]([O-])(C)C.[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (1R)-2-[(6-{4-[3-(Cyclopentylsulfinyl)phenyl]butoxy}hexyl)amino]-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 0.11 g | C1(CCCC1)S(=O)C=1C=C(C=CC1)CCCCOCCCCCCNC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C33H49NO5S
